US08685977B2
A suspension of 4,5-dichlorocatechol (1 g, 5.62 mmol), potassium carbonate (780 mg, 5.62 mmol), and methyl iodide (0.34 mL, 5.62 mmol) in N,N-dimethylformamide (20 mL) was stirred rapidly at 130° C. for 20 hours, under a nitrogen atmosphere. The reaction mixture was allowed to cool to room temperature before diluting with ethyl acetate (50 mL). The mixture was washed with water (50 mL), saturated aqueous sodium bicarbonate (50 mL), and saturated brine solution (50 mL). The organic layer was separated and dried over sodium sulphate, and evaporated under reduced pressure to a deep brown solid. The crude material was purified by flash chromatography (eluting with 1:1 heptane/dichloromethane) to afford 4,5-dichloro-2-methoxyphenol as a white solid (490 mg, 45%).

reactant | 4,5-dichlorocatechol | 5.62 mmol, 1 g | ClC=1C=C(C(O)=CC1Cl)O | C6H4Cl2O2
reactant | potassium carbonate | 5.62 mmol, 780 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 5.62 mmol, 0.34 mL | CI | CH3I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4,5-dichloro-2-methoxyphenol | 490 mg, 45% | ClC1=CC(=C(C=C1Cl)O)OC | C7H6Cl2O2
